US04771052
3-Chloro-7,8,9,10-tetrahydro-11H-pyrido[3',4':4,5]pyrrolo[2,3-c]quinoline
A mixture prepared from 27 g of 8-acetyl-3-chloro-7,8,9,10-tetrahydro-11H-pyrido[3',4':4,5]pyrrolo[2,3-c]quinoline and 200 ml of concentrated hydrochloric acid was heated at reflux for 1 hour, whereupon a solid precipitated. The mixture was stirred overnight at room temperature, and the solid was filtrated and dissolved in 200 ml of water. This solution was made alkaline with 25% sodium hydroxide solution, and the solid-form free base was filtrated and washed with ethanol. The yield was 17 g, mp=285° C. (dec).

reactant | 8-acetyl-3-chloro-7,8,9,10-tetrahydro-11H-pyrido[3',4':4,5]pyrrolo[2,3-c]quinoline | 27 g | C(C)(=O)C1CNCC2=C1NC=1C=NC3=CC(=CC=C3C12)Cl | C16H14ClN3O
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | 3-Chloro-7,8,9,10-tetrahydro-11H-pyrido[3',4':4,5]pyrrolo[2,3-c]quinoline | ClC1=CC=C2C3=C(C=NC2=C1)NC1=C3CNCC1 | C14H12ClN3
